US04638060
3-[(t-Butoxycarbonyl)amino]-2-oxo-1-(sulfooxy)-1-azaspiro[3.3]heptane, monosodium salt (0.3 g, 0.87 mmole) was slurried in 2.5 ml of dry dichloromethane and 1.0 ml of anisole at -10° C. under argon, and then treated with 4.0 ml of trifluoroacetic acid. After 0.5 hour, a solid had formed. After 1.5 hours, 4 ml of dry toluene was added, and the mixture evaporated in vacuo to give a solid, 3-amino-2-oxo-1-(sulfooxy)-1-azaspiro[3.3]heptane, which was triturated twice with hexane and dried in vacuo at 25° C. for 1 hour.

reactant | 3-[(t-Butoxycarbonyl)amino]-2-oxo-1-(sulfooxy)-1-azaspiro[3.3]heptane | C(C)(C)(C)OC(=O)NC1C(N(C12CCC2)OS(=O)(=O)O)=O | C11H18N2O7S
reactant | monosodium | 0.87 mmole, 0.3 g | [Na] | Na
reactant | anisole | 1.0 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 4.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 3-amino-2-oxo-1-(sulfooxy)-1-azaspiro[3.3]heptane | NC1C(N(C12CCC2)OS(=O)(=O)O)=O | C6H10N2O5S
